US08980913B2
Step 2: N-(2-(1,3-Dioxolan-2-yl)ethyl)-N-benzyl-2-((tert-butyldimethylsilyl)oxy)-ethanamine
To a stirred solution of 2-((2-(1,3-dioxolan-2-yl)ethyl)(benzyl)amino)ethanol (2.81 g, 11.2 mmol) in DMF (10 mL) was added imidazole (1.67 g, 24.61 mmol) and tert-butyldimethylsilyl chloride (3.35 g, 22.39 mmol). The reaction mixture was stirred at RT for 18 hours. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic phase was dried (magnesium sulfate), filtered and the solvent evaporated art reduced pressure (3.87 g, 95%).

reactant | 2-((2-(1,3-dioxolan-2-yl)ethyl)(benzyl)amino)ethanol | 11.2 mmol, 2.81 g | O1C(OCC1)CCN(CCO)CC1=CC=CC=C1 | C14H21NO3
reactant | imidazole | 24.61 mmol, 1.67 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 22.39 mmol, 3.35 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(1,3-Dioxolan-2-yl)ethyl)-N-benzyl-2-((tert-butyldimethylsilyl)oxy)-ethanamine | O1C(OCC1)CCN(CCO[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C20H35NO3Si
